US04613611
Methyl 2-xanthenyl ketone
A 21.4 ml portion of acetyl chloride in 30 ml of 1,2-dichloroethane was added dropwise to 40 g of aluminum chloride in 105 ml of 1,2-dichloroethane. This mixture was stirred 1/2 hour and then added portionwise to an ice-cooled solution of 54.66 g of xanthene in 225 ml of 1,2-dichloroethane. The reaction was then allowed to warm to 16° C. and poured onto ice. A 180 ml portion of concentrated hydrochloric acid was added, the mixture was allowed to stand overnight and the layers separated. The aqueous layer was extracted with two 100 ml portions of chloroform then the organic layers was combined, dried, filtered through hydrous magnesium silicate and evaporated, giving the desired intermediate as a white crystalline solid, mp 103°-104° C.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 40 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | xanthene | 54.66 g | C1=CC=CC=2OC3=CC=CC=C3CC12 | C13H10O
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 105 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 225 ml | ClCCCl | C2H4Cl2
product | Methyl 2-xanthenyl ketone | C1=C(C=CC=2OC3=CC=CC=C3CC12)C(=O)C | C15H12O2
